US20010056188A1
2) 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methylsulfonyl-3-(1,2,2-trimethylpropylamino)propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methylsulfonyl-3-methylsulfanyl-2-propenenitrile (0.225 g, 0.56 mmol) was stirred in 1,2,2-trimethylpropylamine (1 ml) for 22 h at 100° C. under nitrogen in a sealed flask. The reaction mixture was concentrated and the residue dissolved in DCM, washed twice with 1N aqueous HCl and once with water. The organic phase was dried (sodium sulfate) and concentrated. The residue was crystallised from ethyl acetate/heptane 1:4 to give 146 mg (57%) of the title compound. Mp 184.5-188.5° C. 1H NMR (200 MHz, CDCl3): δ=0.9 (s, 9H), 1.03 (d, 3H), 3.0 (m, 1H), 7.52 (s, 2H), 7.68 (s, 1H); EI SP/MS: 457 (M+).

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methylsulfonyl-3-methylsulfanyl-2-propenenitrile | 0.56 mmol, 0.225 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C)SC)(F)F | C13H10F6N2O2S2
reactant | 1,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methylsulfonyl-3-(1,2,2-trimethylpropylamino)propenenitrile | 146 mg, 57% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C)NC(C(C)(C)C)C)(F)F | C18H21F6N3O2S
